US05932601
A solution of ethyl 7-[3-methoxy-4-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenyl]heptanoate (9.6 g) in tetrahydrofuran (THF) (50 ml) was added dropwise, at room temperature, to a suspension of lithium aluminum hydride (0.96 g) in tetrahydrofuran (THF) (50 ml). The mixture was stirred for 30 minutes at room temperature, to which was then added, under ice-cooling, water (6 ml). Insolubles were filtered off, then the filtrate was concentrated. The concentrate was subjected to column chromatography on silica gel. From the fraction eluted with ethyl acetate-hexane (2:3), was obtained 7-[3-methoxy-4-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenyl]heptanol, which was recrystallized from chloroform-ether to give colorless needles, m.p.78-79° C.

reactant | ethyl 7-[3-methoxy-4-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenyl]heptanoate | 9.6 g | COC=1C=C(C=CC1OCC=1N=C(OC1C)C1=CC=CC=C1)CCCCCCC(=O)OCC | C27H33NO5
reactant | lithium aluminum hydride | 0.96 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 6 ml | O | H2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 7-[3-methoxy-4-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenyl]heptanol | COC=1C=C(C=CC1OCC=1N=C(OC1C)C1=CC=CC=C1)CCCCCCCO | C25H31NO4
